US06900215B2
1-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole (300 mg, 1.0 mmol) was coupled to 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine (266 mg, 1.0 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then recrystallisation from toluene/isohexane, gave 3-[4-fluoro-3-(pyrazol-1-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 6.55 (1H, dd, J 3 and 2), 7.28 (1H, d, J 7), 7.44-7.47 (2H, m), 7.77 (1H, d, J 2), 8.13-8.15 (2H, m), 8.21-8.24 (1H, m), 8.85 (1H, d, J 7); m/z (ES+) 348 (M++H).

reactant | 1-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole | 1.0 mmol, 300 mg | CC1(COB(OC1)C=1C=CC(=C(C1)N1N=CC=C1)F)C | C14H16BFN2O2
reactant | 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.0 mmol, 266 mg | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
product | 3-[4-fluoro-3-(pyrazol-1-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)N2N=CC=C2 | C16H9F4N5
